US07700641B2
Synthesis of 5-bromospiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1, and making non-critical variations using 3-(5-bromo-2-hydroxyphenyl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (25%) as a white solid: mp 225-228° C.; 1H NMR (300 MHz, CDCl3) δ 10.65 (s, 1H), 7.35 (dd, 1H), 7.24 (dt, 1H), 7.11 (d, 1H), 6.99-6.88 (m, 3H), 6.83 (d, 1H), 4.81 (d, 1H), 4.69 (d, 1H); MS (ES+) m/z 316.1 (M+1), 318.1 (M+1).

reactant | 3-(5-bromo-2-hydroxyphenyl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(NC2=CC=CC=C12)=O)CO)O | C15H12BrNO3
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 5-bromospiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | BrC=1C=CC2=C(C1)C1(C(NC3=CC=CC=C13)=O)CO2 | C15H10BrNO2
